US08183397B2
4. Step: Preparation of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)tetrahydro-2H-pyran-2-one (III′)
To a solution of 1.0 g of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dihydroxymethyl)-tetrahydropyran-2-one (V′) in 100 mL of dichloromethane, 50 mg of toluenesulfonic acid and 4.5 mL of trimethyl orthoformate are added. After 2 hours of stirring at 25° C., 0.2 g of NaHCO3 is added and dichloromethane is distilled off. The residue is flash chromatographed (MTBE/hexane 1/1) and the solvents are distilled off to get the title compound.

reactant | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dihydroxymethyl)-tetrahydropyran-2-one | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(O)O)=O | C12H24O5Si
reactant | toluenesulfonic acid | 50 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl orthoformate | 4.5 mL | C(OC)(OC)OC | C4H10O3
reactant | NaHCO3 | 0.2 g | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)tetrahydro-2H-pyran-2-one | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(OC)OC)=O | C14H28O5Si
